US04715994
To a solution of 341 mg (1 mmol) of [1-(benzyloxycarbonylamino)-ethyl](2-methoxycarbonyl-2-propenyl)phosphinic acid in methanol (20 ml) and H2O (8 ml), was 1N NaOH (2.2 ml, 2.2. mmol) and the mixture was refluxed for 3 hours. After evaporation of methanol, the aqueous layer was washed with chloroform twice and then acidified with 2N HCl. The aqueous solution was extracted with chloroform four times and the combined organic layer was dried over anhydrous magnesium sulfate. Filtration followed by evaporation gave 330 mg (yield 100%) of [1-(benzyloxycarbonylamino)ethyl](2-carboxy-2-propenyl)phosphinic acid. The obtained above phosphinic acid (163 mg, 0.5 mmol) and sodium iodide (300 mg, 2 mmol) were dissolved in acetonitrile (3 ml). Then trimethylsilyl chloride (0.25 ml) was added and the mixture was stirred at room temperature for 6 hours. H2O was added and the mixture was washed with chloroform eight times and adjusted at pH 4 by the addition of saturated sodium carbonate solution. After evaporation to dryness, ethyl acetate (10 ml) was added and the precipitate was filtered. It was dissolved in methanol (10 ml) and the insoluble material was filtered off. Methanol was evaporated and the residue was purified by reversed-phase column chromatography (C-18, eluted with H2O) to give 60 mg (yield 62%) of (1-aminoethyl)(2-carboxy-2-propenyl)phosphinic acid.

reactant | [1-(benzyloxycarbonylamino)-ethyl](2-methoxycarbonyl-2-propenyl)phosphinic acid | 1 mmol, 341 mg | C(C1=CC=CC=C1)OC(=O)NC(C)P(O)(=O)CC(=C)C(=O)OC | C15H20NO6P
reactant | NaOH | 1N, 2.2 ml | [OH-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
solvent | H2O | 8 ml | O | H2O
product | [1-(benzyloxycarbonylamino)ethyl](2-carboxy-2-propenyl)phosphinic acid | 330 mg, yield 100% | C(C1=CC=CC=C1)OC(=O)NC(C)P(O)(=O)CC(=C)C(=O)O | C14H18NO6P
